US05076832
An ethanolic (200 mL) solution of N-(3-trifluoromethylphenyl)-2-chloro-2-phenylacetamide (200.0 grams, 0.06 mol) and 70% aqueous ethylamine (75 mL, excess) and potassium iodide (1.0 gram, catalytic) was stirred at room temperature. The reaction was followed by thin layer chromatography (3:1 hexane-ethyl acetate). The mixture was worked up by removing the ethanol and the excess ethyl amine in a rotary evaporator. The residue was redissolved in fresh ethanol and concentrated hydrochloric acid (excess) was added to convert the product to its hydrochloride salt. Water and other excess reagents were removed by azeotropic distillation in a rotary evaporator. The salt was washed with ethyl ether and dissolved in saturated sodium bicarbonte to regenerate the amine. The product was extracted into ethyl acetate and isolated to give the desired N-(3-trifluoromethylphenyl)-2-ethylamino-2-phenylacetamide (17.1 grams, 89% yield) whose structure was confirmed by nuclear magnetic resonance, infra-red spectroscopy, and mass spectroscopy analysis.

reactant | N-(3-trifluoromethylphenyl)-2-chloro-2-phenylacetamide | 0.06 mol, 200.0 grams | FC(C=1C=C(C=CC1)NC(C(C1=CC=CC=C1)Cl)=O)(F)F | C15H11ClF3NO
reactant | ethylamine | 75 mL | C(C)N | C2H7N
reactant | potassium iodide | 1.0 gram | [I-].[K+]
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | N-(3-trifluoromethylphenyl)-2-ethylamino-2-phenylacetamide | 17.1 grams, 89% yield | FC(C=1C=C(C=CC1)NC(C(C1=CC=CC=C1)NCC)=O)(F)F | C17H17F3N2O
